US08877744B2
To a solution of (R)-5-(5-bromo-2-fluorophenyl)-6,6-difluoro-5-methyl-2,5,6,7-tetrahydro-1,4-oxazepin-3-amine (intermediate A7.1) (9.0 mmol) in dichloromethane (150 ml) was subsequently added at 0° C. triethylamine (18.0 mmol) and 4,4′-dimethoxytriphenylmethyl chloride (9.9 mmol) and stirring was continued at 22° C. for 2 hours. For the workup, the mixture was washed with saturated an aqueous solution of ammonium chloride. The organic layer was dried, evaporated at reduced pressure, and the residue was purified by chromatography on silica using cyclohexane/ethyl acetate to give pure (R)—N-(bis(4-methoxyphenyl)(phenyl)methyl)-5-(5-bromo-2-fluorophenyl)-6,6-difluoro-5-methyl-2,5,6,7-tetrahydro-1,4-oxazepin-3-amine (A8.1) as a colorless foam. MS (ISP): m/z=639.3 [M+H]+ and 641.4 [M+2+H]+.

reactant | (R)-5-(5-bromo-2-fluorophenyl)-6,6-difluoro-5-methyl-2,5,6,7-tetrahydro-1,4-oxazepin-3-amine | 9.0 mmol | BrC=1C=CC(=C(C1)[C@]1(N=C(COCC1(F)F)N)C)F | C12H12BrF3N2O
reactant | triethylamine | 18.0 mmol | C(C)N(CC)CC | C6H15N
reactant | 4,4′-dimethoxytriphenylmethyl chloride | 9.9 mmol | COC1=CC=C(C=C1)C(C2=CC=CC=C2)(C3=CC=C(C=C3)OC)Cl | C21H19ClO2
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | (R)—N-(bis(4-methoxyphenyl)(phenyl)methyl)-5-(5-bromo-2-fluorophenyl)-6,6-difluoro-5-methyl-2,5,6,7-tetrahydro-1,4-oxazepin-3-amine | COC1=CC=C(C=C1)C(NC=1COCC([C@@](N1)(C)C1=C(C=CC(=C1)Br)F)(F)F)(C1=CC=CC=C1)C1=CC=C(C=C1)OC | C33H30BrF3N2O3
